US07799775B2
In 150 ml of tetrahydrofuran, 42.3 g of ethyl 2-aminocyclohex-1-enecarboxylate as synthesized in the above Step 4-1-A was dissolved, to which 40 g of pyridine was added, and into which 5-bromovaleryl chloride was dropped under cooling with ice. After stirring the reaction mixture overnight at room temperature, ethyl acetate was added, followed by washing with saturated aqueous sodium hydrogencarbonate solution, 10% aqueous citric acid and saturated brine, by the order stated. Drying the product over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (n-hexane:ethyl acetate=8:1), to provide 76.6 g (92%) of ethyl 2-(5-bromopentanoylamino)cyclohex-1-enecarboxylate.

reactant | ethyl 2-aminocyclohex-1-enecarboxylate | 42.3 g | NC1=C(CCCC1)C(=O)OCC | C9H15NO2
reactant | pyridine | 40 g | N1=CC=CC=C1 | C5H5N
reactant | 5-bromovaleryl chloride | BrCCCCC(=O)Cl | C5H8BrClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 2-(5-bromopentanoylamino)cyclohex-1-enecarboxylate | 76.6 g, 92% | BrCCCCC(=O)NC1=C(CCCC1)C(=O)OCC | C14H22BrNO3
